US06518257B1
(ii) Production of 1-(1H-imidazol-4-yl)-2-methyl-1-[4′-(trifluoromethyl)[1,1′-biphenyl]-3-yl]-1-propanol
By the reaction in the same manner as in Example 4-(iii) using 2-methyl-1-[4′-(trifluoromethyl)[1,1′-biphenyl]-3-yl]-1-(1-trityl-1H-imidazol-4-yl)-1-propanol (2.55 g) and pyridine hydrochloride (831 mg), the title compound (1.31 g) was obtained as colorless needle crystals.

reactant | 2-methyl-1-[4′-(trifluoromethyl)[1,1′-biphenyl]-3-yl]-1-(1-trityl-1H-imidazol-4-yl)-1-propanol | 2.55 g | CC(C(O)(C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=1C=C(C=CC1)C1=CC=C(C=C1)C(F)(F)F)C | C39H33F3N2O
reactant | pyridine hydrochloride | 831 mg | Cl.N1=CC=CC=C1
product | 1-(1H-imidazol-4-yl)-2-methyl-1-[4′-(trifluoromethyl)[1,1′-biphenyl]-3-yl]-1-propanol | 1.31 g | N1C=NC(=C1)C(C(C)C)(O)C=1C=C(C=CC1)C1=CC=C(C=C1)C(F)(F)F | C20H19F3N2O
